US06143760
To a solution of 6-(2-methoxyethoxy)-4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxylic acid (106 mg, 0.4 mmol) and triethylamine (117 mL, 0.84 mmol) in 4:1 tetrahydrofuran: N,N- dimethylformamide (2 mL) at 0° C. was added ethyl chloroformate (66 mL, 0.82 mmol). After stirring at O C for 1.25 h, 4-[(N-tert-butoxycarbonyl)-methylaminomethyl)benzylamine hydrochloride (120 mg, 0.42 mmol) and triethylamine (59 mL, 0.42 mmol) was added. The reaction mixture was stirred at 0° C. for 0.75 h, then allowed to ambient temperature and stirred for 20 h. N,N-Dimethylethylenediamine (132 mL, 1.2 mmol) was added, the reaction mixture stirred for 1 h, then concentrated in vacuo. The residue was cooled in an ice bath, saturated aqueous ammonium chloride was added and the mixture extracted with dichloromethane. The organic layer was washed with saturated aqueous sodium chloride, dried over sodium sulfate, filtered, and concentrated to give 177 mg of crude N-[4-(N-tert butoxycarbonyl)-methylaminomethyl)benzyl] 6-(2-methoxyethoxy)-4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxamide.

reactant | 6-(2-methoxyethoxy)-4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxylic acid | 0.4 mmol, 106 mg | COCCOC=1N=C2C(C(=CNC2=CC1)C(=O)O)=O | C12H12N2O5
reactant | triethylamine | 0.84 mmol, 117 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.82 mmol, 66 mL | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 0.42 mmol, 59 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-Dimethylethylenediamine | 1.2 mmol, 132 mL | CN(CCN)C | C4H12N2
solvent | N,N- dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-(2-methoxyethoxy)-4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxamide | COCCOC=1N=C2C(C(=CNC2=CC1)C(=O)N)=O | C12H13N3O4
